US07692014B2
Step 9: 3-(4-Fluorobenzyl)-7-hydroxy-3,7-dihydro-6H-pyrrolo[2,3-c]-1,7-naphthyridin-6-one
A solution of 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide (100 mg, 0.28 mmol) in methanol (10 mL) and hydrochloric acid (37 w %, 1 mL) was refluxed for 16 hours. It was quenched with saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated and purified by pre-HPLC to provide the title compound as white powder. 1H NMR (DMSO-d6) δ; 11.50 (s, 1H), 9.04 (s, 1H), 7.88 (d, 1H, J=3.0 Hz), 7.84 (d, 1H, J=7.5 Hz), 7.13-7.19 (m, 3H), 6.93 (d, 1H, J=7.5 Hz), 5.65 (s, 2H). MS (APCl, M+H+): 310.1. HRMS calcd for C17H13N3O2F1 (M+H+) 310.0992, found 310.0991. HPLC: 94.3% purity.

reactant | 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 0.28 mmol, 100 mg | C(C)O/C=C/C1=C2C(=CN=C1C(=O)NO)N(C=C2)CC2=CC=C(C=C2)F | C19H18FN3O3
solvent | methanol | 10 mL | CO | CH4O
solvent | hydrochloric acid | 1 mL | Cl | ClH
product | 3-(4-Fluorobenzyl)-7-hydroxy-3,7-dihydro-6H-pyrrolo[2,3-c]-1,7-naphthyridin-6-one | FC1=CC=C(CN2C=CC3=C2C=NC=2C(N(C=CC32)O)=O)C=C1 | C17H12FN3O2
